US06689779B2
Preparation of 2-(4-Triphenylmethylpiperazin-1-yl)-5-iodopyrimidine
In 100 ml of methylene chloride was dissolved 13 g of 2-piperazin-1-yl-5-iodopyrimidine which was then reacted with 15 g of triphenylmethyl chloride at room temperature for 1 hour in the presence of 16 ml of triethylamine with stirring. The reaction mixture was added with methylene chloride, after which the organic layer was washed with water and brine, dehydrated, filtered and concentrated under vacuum. The residue was purified by use of ethyl acetate and a small quantity of methanol to obtain the title compound. 10 g.

reactant | 2-piperazin-1-yl-5-iodopyrimidine | 13 g | N1(CCNCC1)C1=NC=C(C=N1)I | C8H11IN4
reactant | triphenylmethyl chloride | 15 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Triphenylmethylpiperazin-1-yl)-5-iodopyrimidine | C1(=CC=CC=C1)C(N1CCN(CC1)C1=NC=C(C=N1)I)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H25IN4
